US05716756
12 g (44.4 mmol) of 1,1,1,3,3,3-hexafluoro-2-(3-vinyl-phenyl)-propan-2-ol were dissolved in 50 ml of anhydrous DMF, and a spatula tip of 2-tert-butyl-hydroquinone (10 mg) was added for stabilization. 1.5 g (50 mmol) of sodium hydride were then added while stirring and cooling with ice at about 5° C. After everything had dissolved, 9.92 g (47mmol) of 4-chlorobenzenesulfonyl chloride were added at the same temperature. The mixture was stirred for 72 hours at room temperature, methylene chloride was then added and the mixture was washed with water, dried, filtered and evaporated down. The residue obtained was chromatographed with hexane/chloroform over a silica gel column. 16.65 g of 2-(4-chlorobenzenesulfonyloxy)-1,1,1,3,3,3-hexafluoro-2-(3-vinylphenyl)-propane (=2,2,2-trifluoro-1-trifluoromethyl-1-(3-vinylphenyl)-ethyl 4-chlorobenzenesulfonate) were isolated (colorless crystals, m.p.: 70° C.).

reactant | 1,1,1,3,3,3-hexafluoro-2-(3-vinyl-phenyl)-propan-2-ol | 44.4 mmol, 12 g | FC(C(C(F)(F)F)(O)C1=CC(=CC=C1)C=C)(F)F | C11H8F6O
reactant | sodium hydride | 50 mmol, 1.5 g | [H-].[Na+]
reactant | 4-chlorobenzenesulfonyl chloride | 47mmol, 9.92 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | 2-tert-butyl-hydroquinone | 10 mg | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
product | 2-(4-chlorobenzenesulfonyloxy)-1,1,1,3,3,3-hexafluoro-2-(3-vinylphenyl)-propane | 16.65 g | ClC1=CC=C(C=C1)S(=O)(=O)OC(C(F)(F)F)(C(F)(F)F)C1=CC(=CC=C1)C=C | C17H11ClF6O3S
